US09210927B2
Step 1. 5-Bromo-3-hydroxyisoindoline-1-one (BI25)
A mixture of Zn powder (1.73 g, 26.154 mmol), copper (II) sulfate pentahydrate (0.02 g, 0.08 mmol) and 2M aq NaOH (27 mL) were cooled to 0° C. 5-Bromoisoindoline-1,3-dione (5 g, 22 mmol) was added at the same temperature over the period of 30 min. The reaction mixture was stirred at 0° C. for 30 min and 3 h at ambient temperature. The reaction mixture was filtered and the filtrate was neutralized with concentrated HCl. The reaction mixture was diluted with ethanol and extracted with ethyl acetate. The combined ethyl acetate layer was dried over Na2SO4 and concentrated under reduced pressure to afford the crude title compound as a brown solid, which was used in the next step without further purification (1.3 g): mp 258-261° C.; 1H NMR (400 MHz, DMSO-d6) δ 9.03 (br, 1H), 7.81 (m, 2H), 7.69 (m, 1H), 6.44 (m, 1H), 5.88 (d, J=9.3 Hz, 1H); ESIMS m/z 225.83 ([M−H]−); IR (thin film) 1684, 3246, 606 cm−1.

reactant | NaOH | 2M, 27 mL | [OH-].[Na+]
reactant | 5-Bromoisoindoline-1,3-dione | 22 mmol, 5 g | BrC=1C=C2C(NC(C2=CC1)=O)=O | C8H4BrNO2
catalyst | Zn | 26.154 mmol, 1.73 g | [Zn] | Zn
catalyst | copper (II) sulfate pentahydrate | 0.08 mmol, 0.02 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 5-Bromo-3-hydroxyisoindoline-1-one | BrC=1C=C2C(NC(C2=CC1)=O)O | C8H6BrNO2
